US07122580B2
(2S)-(2-Amino-5-iodo-benzoyl-amino)-3-biphenyl-4-yl-propionic acid methyl ester (1.53 g, 80%) was prepared from (2S)-amino-3-biphenyl-4-yl-propionic acid methyl ester (1.0 g, 4.1 mmol), 5-iodo-2-amino-benzoic acid (1.23 g, 4.9 mmol) as described in general procedure A.

reactant | (2S)-amino-3-biphenyl-4-yl-propionic acid methyl ester | 4.1 mmol, 1.0 g | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)=O | C16H17NO2
reactant | 5-iodo-2-amino-benzoic acid | 4.9 mmol, 1.23 g | IC=1C=CC(=C(C(=O)O)C1)N | C7H6INO2
product | (2S)-(2-Amino-5-iodo-benzoyl-amino)-3-biphenyl-4-yl-propionic acid methyl ester | 1.53 g, 80% | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=C(C=CC(=C1)I)N)=O)=O | C23H21IN2O3
